US04739050
2-[2-(3-Chloropropoxy)-5-methoxyphenyl]-3,4-dihydro-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine (compound No. 41)
To a stirred suspension of 60% sodium hydride (0.5 g) in dimethylformamide (10 ml), 3,4-dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine (3.5 g, compound No. 8) dissolved in dimethylformamide (5 ml) is added under nitrogen atmosphere and ice-cooling, and the mixture is stirred for 10 minutes at room temperature. 1-Bromo-3-chloropropane (1.9 g) is added to the reaction mixture, and the mixture is stirred for 1 hour at 50°-60° C. The mixture is poured into a mixture of ethyl acetate and water. The organic layer is washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The separated crystals are collected by filtration to give 4.0 g (93.4%) of the titled compound.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 1-Bromo-3-chloropropane | 1.9 g | BrCCCCl | C3H6BrCl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | 3,4-dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine | OC1=C(C=C(C=C1)OC)C1(SC2=C(N(C1=O)C)C=CC=C2)SC | C17H17NO3S2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[2-(3-Chloropropoxy)-5-methoxyphenyl]-3,4-dihydro-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine | 4.0 g, 93.4% | ClCCCOC1=C(C=C(C=C1)OC)C1(SC2=C(N(C1=O)C)C=CC=C2)SC | C20H22ClNO3S2
